* Universal Opamp SPICE Macromodels
* Version: v1.1
* Date: 2019-11-23
* 
* Written in 2019 by Ste Kulov, HD Retrovision LLC.
* To the extent possible under law, the author(s) have dedicated all copyright
* and related and neighboring rights to this software to the public domain worldwide. 
* This software is distributed without any warranty. 
* You should have received a copy of the CC0 Public Domain Dedication along with this software.
* If not, see <http://creativecommons.org/publicdomain/zero/1.0/>.
* 
*****************************************
*************
* CHANGELOG *
*************
* ---------------------------------------
* v1.0
* 2019-11-08
* ---------------------------------------
* 1.) Initial Release
* ---------------------------------------
* 
* 
* ---------------------------------------
* v1.1
* 2019-11-23
* ---------------------------------------
* 1.) lvl2:	Removed SW model and replaced all instances with semiconductor diodes.
* 2.) lvl2: Added offsets to the voltage sources to compensate for the new semiconductor junctions.
* ---------------------------------------
*****************************************


*****************************************
.subckt uopamp_lvl1 +IN -IN OUT
* Universal Opamp Level 1
* Single pole opamp without voltage rails and referenced to GND
* 
* PINOUT ORDER  1   2   3
* PINOUT ORDER +IN -IN OUT
* 
* Parameters:
* Avol => open-loop voltage gain (V/V), default=100k
* GBW => gain-bandwidth product (Hz), default=100meg
* Rin => differential input resistance (ohm), default=100g
* Rout => open-loop output resistance (ohm), default=1
* 
R1 +IN -IN {Rin}
G1 0 OUT +IN -IN {Avol/Rout}
R2 OUT 0 100g
C3 OUT 0 {Avol/(2*pi*GBW*Rout)}
.param Avol=100k
.param GBW=100meg
.param Rin=100g
.param Rout=1
.param pi=3.1415926535898
.ends
*****************************************


*****************************************
.subckt uopamp_lvl2 +IN -IN VCC VEE OUT
* Universal Opamp Level 2
* Single pole opamp with rail saturation, current consumption, current limiting, and input offset voltage
* 
* PINOUT ORDER  1   2   3   4   5
* PINOUT ORDER +IN -IN VCC VEE OUT
* 
* Parameters:
* Avol => open-loop voltage gain (V/V), default=100k
* GBW => gain-bandwidth product (Hz), default=100meg
* Rin => differential input resistance (ohm), default=100g
* Rout => open-loop output resistance (ohm), default=1
* Iq => quiescent supply current (A), default=1m
* Ilimit => maximum output current (A), default=1
* Vrail => voltage between output saturation and each rail (V), default=0
* Vos => input offset voltage (V), default=0
* Vmax => total maximum supply voltage between rails (V), default=50
* 
G1 VCC N001 N002 -IN 1u
G2 VEE N001 N002 -IN 1u
R1 VCC N001 {Avol/1u}
R2 N001 VEE {Avol/1u}
G3 OUT VCC VCC N001 {1/(2*Rout)}
G4 VEE OUT N001 VEE {1/(2*Rout)}
R4 VCC OUT {2*Rout}
R5 OUT VEE {2*Rout}
C1 VCC N001 {1u/(2*pi*GBW)}
C2 N001 VEE {1u/(2*pi*GBW)}
G6 N005 VEE N001 OUT {1/(2*Rout)}
G5 N006 VEE OUT N001 {1/(2*Rout)}
R8 -IN +IN {Rin}
V6 VCC N003 {Vrail+545m}
V7 N008 VEE {Vrail+545m}
V8 N002 +IN {Vos}
V9 OUT N007 {Ilimit-545m}
V10 N004 OUT {Ilimit-545m}
D1 N001 N003 diode
D2 N008 N001 diode
D3 VCC N005 diode
D4 VCC N006 diode
D5 VEE N005 zener
D6 VEE N006 zener
D7 N001 N004 diode
D8 N007 N001 diode
I1 VCC VEE {Iq}
.param Avol = 100k
.param GBW = 100meg
.param Rin = 100g
.param Rout = 1
.param Iq = 1m
.param Ilimit = 1
.param Vrail = 0
.param Vos = 0
.param Vmax = 50
.model diode D(Is=1e-14)
.model zener D(Is=1e-14 BV={Vmax})
.param pi=3.1415926535898
.ends
*****************************************
